US04211666
In addition, the 4-propylcyclohexanone employed as a raw material in this preparation example was prepared as follows: A commercial p-n-propylphenol was hydrogenated in the presence of ethanol, sodium ethoxide and Raney nickel catalyst, under a hydrogen pressure of 100 atm, at 150° C. to form 4-n-propylcyclohexanol, which was then oxidized with Jones reagent (CrO3 /H2SO4 /H2O) in acetone to obtain 4-n-propylcyclohexanone having a b.p. of 110°~113° C./26 mm Hg.

reactant | 4-propylcyclohexanone | C(CC)C1CCC(CC1)=O | C9H16O
reactant | p-n-propylphenol | C(CC)C1=CC=C(C=C1)O | C9H12O
reactant | sodium ethoxide | [O-]CC.[Na+]
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 4-n-propylcyclohexanol | C(CC)C1CCC(CC1)O | C9H18O
